Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Poorly controlled T2DM.
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Pt is a ___ ___ with poorly controlled T2DM (A1C 10% in 
___, followed by ___, who presents for antepartum 
admission for blood glucose control per d/w ___ and PCP.

Today she reports feeling thirsty, urinating frequently 
(although this has been the case for the past several weeks of 
her pregnancy) and mild constipation. She endorses mild 
difficulty catching her breath today but denies chest pain, 
palpitations, headache, dizziness, fainting, abdominal pain, 
dysuria, vaginal bleeding or diarrhea. 
 
Past Medical History:
- T2DM (diagnosed ___ last A1c in ___ was 10 by patient
report (last in system was 6.5 in ___
- scoliosis
- h/o renal cancer as a child (age ___ and underwent chemo/XRT 
in addition to nephrectomy, follows annually at ___ with 
Dr ___. able to produce records via email that report 
clear cell sarcoma with Wilms and sarcoma elements, chemo 
received including cisplatin, vincristine, cyclofosphamide, 
etoposide and doxorubicin 
- reports she was told she had high blood pressure in past, 
never on medication
 
Social History:
Denies tobacco, alcohol, and illicits. Feels safe with fiance 
___. Works at ___ in phlebotomy.
 
Physical Exam:
On admission: 
T 98.1 HR 84 BP 125/85 RR 16 SpO2 100%
___: 251
Gen: NAD, comfortable
CV: RRR
Pulm: CTAB, normal work of breathing
Abd: soft, nondistended, nontender
Ext: no edema

On discharge: 
Vitals: stable
General: NAD, breathing comfortably
Abdomen: soft, non-distended
Extremities: No edema, non-tender. 
 
Pertinent Results:
___:00AM   GLUCOSE-200* UREA N-17 CREAT-0.6 SODIUM-133 
POTASSIUM-4.1 CHLORIDE-98 TOTAL CO2-24 ANION GAP-15

___ 12:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG

___ 11:59PM URINE  24Creat-___ ___ with h/o poorly controlled T2DM admitted to 
___ for inpatient glucose control. Patient was followed 
by ___ while in house with daily recommendations for insulin 
dosing. She also received nutrition education and counseled on 
an appropriate diabetic diet. She remained stable throughout 
hospital course with instruction to continue close follow-up 
with ___ to optimize blood glucose levels. Patient was 
discharged on hospital day #3. 
 
Medications on Admission:
Glipizide XL 2.5mg daily, PNV
 
Discharge Medications:
1. Humalog 7 Units Breakfast Humalog 6 Units Lunch Humalog 7 
Units Dinner NPH 12 Units Bedtime, insulin syringe-needle U-100 
[FreeStyle Precision] 30 gauge x ___ 
2. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Type 2 Diabetes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to the ___ service for control of your 
sugars. You were started on insulin, and this regimen was 
titrated up. We do think it's very important for you to have 
better control of your glucose going forward, and thus it is 
important for you to follow-up with the ___ providers this 
week. Please follow these instructions:

- Take your medication as prescribed
- Follow-up with ___
 
Followup Instructions:
___